US06093732
N-[(4-Chlorophenyl)methyl]-7-(dimethylamino)-4-hydroxy-3-quinolinecarboxamide
Sodium cyanoborohydride (96 mg) is added to a mixture of 100 mg 7-amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide and 91 mg paraformaldehyde in 5 mL of acetic acid. After 2 days the mixture is diluted with 5 mL of distilled water (use of more water causes the product to precipitate as an oil). The mixture is stirred an additional 10 min and then the product is collected by filtration. It is washed with three 1 mL portions of 50% aqueous acetic acid and dried in a stream of air. It is dried at 20 torr/24 h/75° C. The product is obtained as mg of an off-white powder.

reactant | Sodium cyanoborohydride | 96 mg | C(#N)[BH3-].[Na+]
reactant | 7-amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide | 100 mg | NC1=CC=C2C(=C(C=NC2=C1)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H14ClN3O2
reactant | paraformaldehyde | 91 mg | C=O | CH2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | N-[(4-Chlorophenyl)methyl]-7-(dimethylamino)-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC(=CC=C2C1O)N(C)C | C19H18ClN3O2
